US05175162
To a solution of 5 g of 2-(4-chlorophenyl)-8-ethyl-4a,5-dihydro-2H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazin-3(4H)-one in a 30% solution of hydrogen bromide in acetic acid is added 2 ml of dimethylsulfoxide at room temperature. After the mixture is stirred for an hour at the same temperature, the mixture is poured into ice-cold water and extracted with chloroform. The extract is washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The resulting crystals are recrystallized from a mixed solvent of chloroform and ethanol to give 3.5 g of 2-(4-chlorophenyl)-8-ethyl-5H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazine-3(2H)-one as yellow needles, melting at 161°-163° C.

reactant | 2-(4-chlorophenyl)-8-ethyl-4a,5-dihydro-2H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazin-3(4H)-one | 5 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CSC1=C2C=C(S1)CC | C17H15ClN2OS2
reactant | hydrogen bromide | Br | BrH
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-chlorophenyl)-8-ethyl-5H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazine-3(2H)-one | 3.5 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CSC1=C2C=C(S1)CC | C17H13ClN2OS2
